US04341864
(d) compound 1: 2-(3-chloro-2,2,3-trifluoropropionamido)-5-[2-(2,4-di-tert-pentylphenoxy)-butyramido]-phenol
A solution of 33.85 g (0.1 mole) of 2-(2,4-di-tert-pentylphenoxy)butyryl chloride in 80 ml of dioxan was added to a solution of 26.85 g (0.1 mole) of 2-(3-chloro-2,2,3-trifluoropropionamido)-5-aminophenol and 23.7 ml (0.2 mole) of quinoline in 500 ml of dioxan at room temperature. The mixture was stirred for 90 minutes and left standing overnight. Next it was poured out in 2 l of icewater and 100 ml of concentrated hydrochloric acid. The sticky residue was extracted with ether, rinsed with water until free from acid, and dried. The solvent was evaporated and the residue recrystallized from hexane.

reactant | 2-(2,4-di-tert-pentylphenoxy)butyryl chloride | 0.1 mole, 33.85 g | C(C)(C)(CC)C1=C(OC(C(=O)Cl)CC)C=CC(=C1)C(C)(C)CC | C20H31ClO2
reactant | 2-(3-chloro-2,2,3-trifluoropropionamido)-5-aminophenol | 0.1 mole, 26.85 g | ClC(C(C(=O)NC1=C(C=C(C=C1)N)O)(F)F)F | C9H8ClF3N2O2
reactant | quinoline | 0.2 mole, 23.7 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | dioxan | 80 ml | O1CCOCC1 | C4H8O2
solvent | dioxan | 500 ml | O1CCOCC1 | C4H8O2
product | 2-(3-chloro-2,2,3-trifluoropropionamido)-5-[2-(2,4-di-tert-pentylphenoxy)-butyramido]-phenol | ClC(C(C(=O)NC1=C(C=C(C=C1)NC(C(CC)OC1=C(C=C(C=C1)C(C)(C)CC)C(C)(C)CC)=O)O)(F)F)F | C29H38ClF3N2O4
